US07470680B2
To a colorless solution of 5-methoxy-1-(triisopropylsilyl)-1H-pyrrolo[3,2-b]pyridine (5.01 g, 16.45 mmol) in THF (100 mL) was dropwise added 2nd-BuLi (21.15 mL, 29.6 mmol) at −78° C. under N2 over 5 min to give an orange solution, the mixture was stirred for 30 min, followed by dropwise addition of trimethyl borate (3.31 mL, 29.6 mmol) through a syringe over 1 min. The resulting light orange solution was stirred at −78° C. for 1 hr, quenched with sat. NH4Cl (30 mL), partitioned between H2O/Et2O (100 mL/150 mL). After seperation, the organic layer was washed with brine (50 mL), dried on MgSO4, concentrated on rotary vacuo and purified on Biotage Flash Collector eluting with 10˜50% EtOAc/Hexanes (1300 mL) to afford the expected produce methyl hydrogen 5-methoxy-1-(triisopropylsilyl)-1H-pyrrolo[3,2-b]pyridin-6-ylboronate (2.5 g, 42%), as a colorless thick gum. Mass spec. 363.24 (MH+) calc. for C18H31,BN2O3 Si 362.22.

reactant | 5-methoxy-1-(triisopropylsilyl)-1H-pyrrolo[3,2-b]pyridine | 16.45 mmol, 5.01 g | COC1=CC=C2C(=N1)C=CN2[Si](C(C)C)(C(C)C)C(C)C | C17H28N2OSi
reactant | BuLi | 29.6 mmol, 21.15 mL | [Li]CCCC
reactant | trimethyl borate | 29.6 mmol, 3.31 mL | B(OC)(OC)OC | C3H9BO3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | methyl hydrogen 5-methoxy-1-(triisopropylsilyl)-1H-pyrrolo[3,2-b]pyridin-6-ylboronate | 2.5 g, 42% | COC1=C(C=C2C(=N1)C=CN2[Si](C(C)C)(C(C)C)C(C)C)B(OC)O | C18H31BN2O3Si
